US04659708
A. N-(6-Methoxy-4-methyl-8-quinolinyl)-6-[4-(2-pyridinyl)-1-piperazinyl]-hexanamide
A mixture of 3.3 g (0.009 mole) of 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide and 1.8 g (0.01 mole) of 1-(2-pyridinyl)piperazine in 10 ml of toluene was heated in an oil bath at 120° for 2.5 hr. After 1.5 hr, excess triethylamine was added slowly with stirring. After cooling, the reaction mixture was taken up in dichloromethane, washed with water, dried over anhydrous magnesium sulfate, and concentrated to dryness in vacuo. Recrystallization from 2-propanol afforded 3.4 g (85%) of the desired product, mp 120°-121°.

reactant | 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide | 0.009 mole, 3.3 g | BrCCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C17H21BrN2O2
reactant | 1-(2-pyridinyl)piperazine | 0.01 mole, 1.8 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(6-Methoxy-4-methyl-8-quinolinyl)-6-[4-(2-pyridinyl)-1-piperazinyl]-hexanamide | 3.4 g, 85% | COC=1C=C2C(=CC=NC2=C(C1)NC(CCCCCN1CCN(CC1)C1=NC=CC=C1)=O)C | C26H33N5O2
